US09079866B2
Step B: 5-(3-Fluoro-2′-(methylsulfonyl)-[1,1′-biphenyl]-4-yl)pyrazin-2-amine
To a nitrogen sparged flask containing 5-(4-chloro-2-fluorophenyl)pyrazin-2-amine (34.0 g, 152 mmol), 2-methylsulfonylphenylboronic acid (38.0 g, 190 mmol), and chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) (2.39 g, 3.0 mmol) were added sparged THF (300 mL) and K3PO4(aq) (608 mL, 0.5 M). The mixture was stirred for 15 hours at rt and then concentrated under reduced pressure to remove the THF. The remaining portion was treated with toluene (325 mL) and THF (25 mL). The biphasic slurry was stirred for 20 h at rt and then filtered and the isolated solid washed with water (150 mL) and toluene (150 mL). The filter cake was dried to provide the title compound (47.1 g, 90%). MS (ESI): mass calcd. for C17H14FN3O2S, 343.08; m/z found, 344.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.41 (dd, J=2.4, 1.5, 1H), 8.12 (dd, J=7.9, 1.4, 1H), 8.04 (d, J=1.5, 1H), 7.93 (m, 1H), 7.80 (m, 1H), 7.72 (m, 1H), 7.48 (dd, J=7.6, 1.4, 1H), 7.37 (dd, J=12.3, 1.7, 1H), 7.32 (dd, J=8.1, 1.7, 1H), 6.76 (s, 2H), 2.95 (s, 3H).

reactant | 5-(4-chloro-2-fluorophenyl)pyrazin-2-amine | 152 mmol, 34.0 g | ClC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7ClFN3
reactant | 2-methylsulfonylphenylboronic acid | 190 mmol, 38.0 g | CS(=O)(=O)C1=C(C=CC=C1)B(O)O | C7H9BO4S
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) | 3.0 mmol, 2.39 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | 5-(3-Fluoro-2′-(methylsulfonyl)-[1,1′-biphenyl]-4-yl)pyrazin-2-amine | 47.1 g, 90% | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)S(=O)(=O)C | C17H14FN3O2S
